US07214673B2
(S)-2-Methyl-10-[4-methyl-3-(2-thiophen-3-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride
Add formaldehyde (45 μL, 0.56 mmol, 37% in water) to a solution of (S)-2-methyl-10-[3-(2-thiophen-3-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene (210 mg, 0.51 mmol) in methylene chloride (6 mL). Stir 15 min at ambient temperature. Add sodium triacetoxyborohydride (163 mg, 0.77 mmol) and stir 2h at ambient temperature. Dilute with saturated sodium bicarbonate solution and extract with methylene chloride. Dry the extracts with sodium sulfate, filter and concentrate the filtrate. Purify by radial silica gel chromatography using a 2 mm plate and 2N ammonia in methanol-methylene chloride (2%) as the eluent to give 127 mg (59%) of the free base of the title compound. Crystallize the dihydrochloride salt from ethyl acetate and ethanol to give the title compound: mass spectrum (ion spray): m/z=423 (M+1), 421 (M−1). Analysis calculated for C23H28Cl2N4S2.0.2HCl.0.3H2O: C, 54.35; H, 5.71; N, 11.01; Cl, 15.35. Found: C, 54.10; H, 5.34; N, 10.99; Cl, 15.00. HR-MS calculated for C23H27N4S2423.1677. Found 423.1656.

reactant | formaldehyde | 0.56 mmol, 45 μL | C=O | CH2O
reactant | (S)-2-methyl-10-[3-(2-thiophen-3-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.51 mmol, 210 mg | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CSC=C3 | C22H24N4S2
reactant | sodium triacetoxyborohydride | 0.77 mmol, 163 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (S)-2-Methyl-10-[4-methyl-3-(2-thiophen-3-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride | 127 mg, 59% | Cl.Cl.CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)CCC3=CSC=C3 | InChI=1S/C23H26N4S2.2ClH/c1-16-13-19-22(24-20-5-3-4-6-21(20)25-23(19)29-16)27-11-10-26(2)18(14-27)8-7-17-9-12-28-15-17;;/h3-6,9,12-13,15,18,25H,7-8,10-11,14H2,1-2H3;2*1H/t18-;;/m0../s1
